US05405861
To a mixture of m-difluorobenzene (100 ml) and anhydrous aluminium chloride (114 g) was added dropwise, while stirring, propionyl chloride (66 ml), during 45 minutes. The mixture was then stirred for 2 hours on an oil bath of 50°-55° C. The reaction mixture was cooled, to which was added methylene chloride (300 ml). The resultant solution was added by portions to ice-water (11) while stirring. Methylene chloride layer was separated, and the aqueous layer was subjected to extraction twice with methylene chloride (60 ml). Methylene chloride layers were combined and washed with water (200 ml), followed by drying over anhydrous magnesium sulfate. The solvent was distilled off to leave 2',4'-difluoropropiophenone (111.4 g) as a pale yellow oily product. 1H-NMR (CDCl3) δ: 1.17~1.24(3H), 2.92~3.05(2H), 6.82~7.02(2H), 7.89~8.03(1H)

reactant | m-difluorobenzene | 100 ml | FC1=CC(=CC=C1)F | C6H4F2
reactant | aluminium chloride | 114 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | propionyl chloride | 66 ml | C(CC)(=O)Cl | C3H5ClO
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2',4'-difluoropropiophenone | 111.4 g | FC1=C(C=CC(=C1)F)C(CC)=O | C9H8F2O
